US04028419
Sodium hydride (0.57 g., 57 percent in mineral oil) in 25 ml. of dimethylsulfoxide, is added to 3 g. of 4,4-difluoro-4-carboxybutyltriphenylphosphonium bromide. The reaction mixture is maintained at 20° C. with stirring for 30 min. A solution of 3α,5α-dihydroxy-2β-[(3R)-3-hydroxy-4-phenoxy-trans-1-butenyl]-1α-cyclopentaneacetaldehyde γ-lactol bis(tetrahydropyranyl ether), 1.57 g., in 10 ml. of dimethylsulfoxide is added. The reaction mixture is stirred at ambient temperature for 2 hr. and diluted with 50 ml. of benzene. Potassium bisulfate (2.7 g. in 30 ml. of water) is slowly added, maintaining the reaction temperature at less than or equal to 10° C. The aqueous layer is extracted with 50 ml. of benzene and the organic extracts are washed successively with 50 ml. of water and 50 ml. of brine before combining, drying, and evaporating. Evaporation yields an oil which is chromatographed on 100 g. of acid washed silica gel packed in 20 percent ethyl acetate and Skellysolve B. Elution with 20-75 percent ethyl acetate and Skellysolve B yields crude 2,2-difluoro-16-phenoxy-17,18,19,20-tetranor-PGF2α, bis-(tetrahydropyranyl ether).

reactant | Sodium hydride | 0.57 g | [H-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 4,4-difluoro-4-carboxybutyltriphenylphosphonium bromide | [Br-].FC(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C(=O)O)F
reactant | Potassium bisulfate | 30 ml, 2.7 g | S([O-])(O)(=O)=O.[K+]
reactant | benzene | C1=CC=CC=C1 | C6H6
product | tetrahydropyranyl ether | O1C(CCCC1)OC1OCCCC1 | C10H18O3
